US07919488B2
2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]ethanol
To a solution of methyl isonicotinate (2 g, 14.58 mmol) in THF (50 mL) was added 4-fluorophenylacetone (2.54 mL, 18.9 mmol) and sodium methoxide powder (1.6 g, 29.17 mmol) was added in one portion with stirring. The resulting suspension was heated to 75° C. for 2 hours under nitrogen, then cooled to ambient and AcOH added (3 mL) followed by EtOH (60 mL) forming a dark orange solution. 2-hydrazinoethanol (3.5 mL, excess) was then added and the mix stirred for 16 hours at room temperature. The volatiles were removed in vacuo and the residue diluted with EtOAc (250 mL) and washed with water (3×50 mL), brine (50 mL), dried over MgSO4, filtered and stripped to a red oil. TLC revealed a mixture of regioisomers that were purified by Biotage flash chromatography, eluting with 2-6% MeOH/DCM, then separated by chiral SF chromatography to afford pure isomers that were characterized by NOE NMR. The title compound was isolated as a white solid, 1.0 g, 23%. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 8.48-8.62 (2 H, m), 7.52-7.65 (2 H, m), 7.14 (2 H, dd, J=8.59, 5.31 Hz), 6.94-7.08 (2 H, m), 6.38 (1 H, s), 4.05-4.14 (2 H, m), 3.94-4.05 (4 H, m), 3.42-3.60 (1 H, m); m/z (APCI+) for C17H16N3FO 297.9 (M+H)+.

reactant | methyl isonicotinate | 14.58 mmol, 2 g | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
reactant | 4-fluorophenylacetone | 18.9 mmol, 2.54 mL | FC1=CC=C(C=C1)CC(C)=O | C9H9FO
reactant | sodium methoxide | 29.17 mmol, 1.6 g | C[O-].[Na+]
reactant | 2-hydrazinoethanol | 3.5 mL | N(N)CCO | C2H8N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 60 mL | CCO | C2H6O
solvent | AcOH | CC(=O)O | C2H4O2
product | 2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]ethanol | FC1=CC=C(CC2=CC(=NN2CCO)C2=CC=NC=C2)C=C1 | C17H16FN3O
